US04537962
7-chloromethyl-5H-1,3,4-thiadiazolo[3,2-a]pyrimidine-5-one (10 g), prepared according to Example 1, was dissolved in dimethylformamide (40 ml) and reacted with anhydrous potassium acetate (10 g) under stirring at room temperature for 20 hours. After dilution with ice water the precipitate was filtered and washed with water to give 7-acetoxymethyl-5H-1,3,4-thiadiazolo[3,2-a]pyrimidine-5-one (9.7 g) which was hydrolyzed by treatment with 37% HCl (50 ml) in dioxane (100 ml) under stirring at room temperature for 2 hours. The reaction mixture was diluted with acetone and the precipitate was filtered and then treated with aqueous Na2HPO4 : filtration and washings with water until neutral gave 7-hydroxymethyl-5H-1,3,4-thiadiazolo[3,2-a]pyrimidine-5-one (6.2 g) which was reacted with dicyclohexylcarbodiimide (14.4 g) in benzene (90 ml) and dimethylsulphoxide (25 ml) in the presence of trifluoroacetic acid (1 ml) and pyridine (1.71 ml) under stirring at room temperature for 20 hours. After treatment with oxalic acid bihydrate (3.1 g) at room temperature, the precipitate of dicyclohexylurea was filtered of and the organic solution was evaporated in vacuo to dryness: the residue was purified over a SiO2 column using chloroform: ethyl acetate=95:5 as eluent. The 7-formyl-5H-1,3,4-thiadiazolo[3,2-a]pyrimidine-5-one so obtained (2.5 g) was reacted with the ylide obtained by treatment of triphenylphosphonium-benzyl chloride (2.94 g) with 50% NaH (0.43 g), in dimethylsulphoxide (40 ml) at room temperature for 22 hours. After dilution with ice water the precipitate was filtered and washed with water: crystallization from CH2Cl2 -ethanol gave 2.1 g of 7-trans-(2-phenyl-ethenyl)-5H-1,3,4-thiadiazolo[3,2-a]pyrimidine-5-one, m.p. 216°-218° C.

reactant | 7-chloromethyl-5H-1,3,4-thiadiazolo[3,2-a]pyrimidine-5-one | 10 g | ClCC=1N=C2N(C(C1)=O)N=CS2 | C6H4ClN3OS
reactant | potassium acetate | 10 g | C(C)(=O)[O-].[K+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 7-acetoxymethyl-5H-1,3,4-thiadiazolo[3,2-a]pyrimidine-5-one | 9.7 g | C(C)(=O)OCC=1N=C2N(C(C1)=O)N=CS2 | C8H7N3O3S
